US07977345B2
To a solution of N-(4-fluorophenyl)-N′-(4-{[9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl]oxy}phenyl)-cyclopropane-1,1-dicarboxamide (430 mg, 0.83 mmol) in 30 mL of dioxane was added 3 mL of 4N HCl in dioxane. The reaction mixture was stirred at room temperature for 1 h. After removal of solvent in vacuo, the reaction mixture triturated with ether, affording N-(4-fluorophenyl)-N′-[4-(9H-purin-6-yloxy)phenyl]cyclopropane-1,1-dicarboxamide (300 mg, 83% yield) as a colorless solid. 1H NMR (400 MHz, DMSO, d6): δ 10.20 (s, 1H), 10.10 (s, 1H), 8.6 (s, 1H), 8.4 (s, 1H), 7.6-7.8 (m, 4H), 7.1-7.3 (m, 4H), 1.45 (s, 4H). MS (ESI) for C22H17FN6O3: 433 (MH+).

reactant | N-(4-fluorophenyl)-N′-(4-{[9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-yl]oxy}phenyl)-cyclopropane-1,1-dicarboxamide | 0.83 mmol, 430 mg | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)OC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C27H25FN6O4
reactant | HCl | 4N, 3 mL | Cl | ClH
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | N-(4-fluorophenyl)-N′-[4-(9H-purin-6-yloxy)phenyl]cyclopropane-1,1-dicarboxamide | 300 mg, 83% yield | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)OC1=C2N=CNC2=NC=N1 | C22H17FN6O3
